US07598423B2
Synthesis of 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-methoxy-methyl}-benzoic acid
The title compound is prepared essentially as described for 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid employing 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-methoxy-methyl}-benzonitrile to give a white solid, 82%. 1H NMR (DMSO-d6) δ 13.00 (bs, 1H), 12.85 (s, 1H), 7.96 (s, 1H), 7.79-7.85 (m, 2H), 7.63 (d, 1H), 7.40-7.48 (m, 5H), 6.72 (d, 1H), 5.50 (s, 1H), 5.24 (s, 2H), 3.30 (s, 3H), 2.58-2.61 (m, 5H), 1.44-1.52 (m, 2H), 0.84-0.88 (m, 3H). LCMS M+1 449.

reactant | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)O)C=C1)CCC)O | C26H26O6
reactant | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-methoxy-methyl}-benzonitrile | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C#N)C=CC2)OC)C=C1)CCC)O | C27H27NO4
product | 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-methoxy-methyl}-benzoic acid | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)OC)C=C1)CCC)O | C27H28O6
